### PR TITLE
Add Erdős Problem 133 (minimum maximum degree of triangle-free diameter-2 graphs), link the formal proof

### LINKED ISSUE #6225: Erdős Problem 133
### What is the Erdős problem?

https://www.erdosproblems.com/133

Let $f(n)$ be minimal such that every triangle-free graph $G$ with $n$ vertices and diameter $2$ contains a vertex with degree $\geq f(n)$. What is the order of growth of $f(n)$? Does $f(n)/\sqrt{n}\to \infty$?

Status: disproved. $f(n) \geq (1-o(1))\sqrt{n}$ by the Moore bound and $f(n) \leq (\sqrt 2 + o(1))\sqrt n$ (Hanson–Seyffarth), $f(n) \leq (\frac{2}{\sqrt 3}+o(1))\sqrt n$ (Füredi–Seress), so $f(n) = \Theta(\sqrt n)$. A formal proof exists in plby/lean-proofs (`Erdos133.erdos_133`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6225.

### What changed
Adds `FormalConjectures/ErdosProblems/133.lean` with `f n` (the least maximum degree of a triangle-free graph on `Fin n` with `diam = 2`, via `sInf`) and:
- `erdos_133` (`research solved`, `answer(False)`): `f n / √n` does not tend to infinity. Linked to plby/lean-proofs `Erdos133.erdos_133` (Codex and GPT-5.6 Sol; single Mathlib-only file, formalising the Hanson–Seyffarth-type construction).
- `erdos_133.variants.isTheta` (also linked): `f n = Θ(√n)`.
- `erdos_133.variants.lower_bound` (Moore bound `f n ≥ (1 - o(1)) √n`), `hanson_seyffarth` (`≤ (√2 + o(1)) √n` [HaSe84]), `furedi_seress` (`≤ (2/√3 + o(1)) √n` [FuSe94]), and the open `asymptotic` (`f n ~ √n`, believed by Alon).

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos133.erdos_133` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms. plby's function uses an arbitrary vertex type and "diameter ≤ 2"; the bridge shows that for triangle-free graphs on `≥ 3` vertices this is Mathlib's `diam = 2`, and transports along `Fintype.equivFin`, so the two functions agree for `n ≥ 3`:

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics SimpleGraph

namespace Bridge133

variable {V : Type*} [Fintype V]

/-- For a triangle-free graph on at least three vertices, `diam = 2` is plby's `HasDiameterTwo`. -/
lemma diam_eq_two_iff (G : SimpleGraph V) (hV : 3 ≤ Fintype.card V) (hG : G.CliqueFree 3) :
    G.diam = 2 ↔ Erdos133Plby.HasDiameterTwo G := by
  have hnt : Nontrivial V := Fintype.one_lt_card_iff_nontrivial.1 (by omega)
  constructor
  · intro h x y hxy
    have hne : G.ediam ≠ ⊤ := ediam_ne_top_of_diam_ne_zero (by omega)
    have hed : G.edist x y ≤ 2 := by
      have h1 := edist_le_ediam (G := G) (u := x) (v := y)
      have h2 : G.ediam = (2 : ℕ) := by
        rw [← ENat.natCast_toNat hne]; exact_mod_cast h
      rw [h2] at h1
      exact_mod_cast h1
    have hr : G.Reachable x y := reachable_of_edist_ne_top (ne_top_of_le_ne_top (by simp) hed)
    obtain ⟨p, hp⟩ := hr.exists_walk_length_eq_edist
    have hlen : p.length ≤ 2 := by
      have : (p.length : ℕ∞) ≤ 2 := hp ▸ hed
      exact_mod_cast this
    cases p with
    | nil => exact absurd rfl hxy
    | cons h q =>
      cases q with
      | nil => exact Or.inl h
      | cons h' r =>
        cases r with
        | nil => exact Or.inr ⟨_, h, h'⟩
        | cons _ _ => simp at hlen
  · intro h
    have hle : G.ediam ≤ 2 := by
      refine ediam_le_of_edist_le fun u v => ?_
      by_cases huv : u = v
      · subst huv; simp
      rcases h u v huv with hadj | ⟨z, h1, h2⟩
      · rw [edist_eq_one_iff_adj.2 hadj]; norm_num
      · have := edist_le (Walk.cons h1 (Walk.cons h2 Walk.nil))
        simpa using this
    have hne1 : G ≠ ⊤ := by
      rintro rfl
      obtain ⟨s, hs⟩ := Finset.exists_subset_card_eq (s := Finset.univ) (n := 3) (by simpa)
      exact hG s ⟨by simp [IsClique], hs.2⟩
    have h0 : G.ediam ≠ 0 := ediam_ne_zero
    have h1 : G.ediam ≠ 1 := fun h => hne1 (ediam_eq_one.1 h)
    have htop : G.ediam ≠ ⊤ := ne_top_of_le_ne_top (by simp) hle
    have h2 : G.ediam = 2 := by
      lift G.ediam to ℕ using htop with e
      have : e ≤ 2 := by exact_mod_cast hle
      have : e ≠ 0 := by exact_mod_cast h0
      have : e ≠ 1 := by exact_mod_cast h1
      norm_cast; omega
    simp [diam, h2]

lemma f_eq (n : ℕ) (hn : 3 ≤ n) : Erdos133.f n = Erdos133Plby.erdos133Function n := by
  classical
  unfold Erdos133.f Erdos133Plby.erdos133Function
  congr 1
  ext d
  simp only [Set.mem_ofPred_eq]
  constructor
  · rintro ⟨G, hG, hdiam, hdeg⟩
    refine ⟨⟨Fin n, G, by simp, hG, (diam_eq_two_iff G (by simpa) hG).1 hdiam, fun v => ?_⟩⟩
    convert hdeg v
  · rintro ⟨⟨V, G, hcard, hG, hdiam, hdeg⟩⟩
    let e : V ≃ Fin n := Fintype.equivFinOfCardEq hcard
    let iso : G.comap e.symm ≃g G := Iso.comap e.symm G
    have hG' : (G.comap e.symm).CliqueFree 3 := hG.comap iso.toEmbedding.isContained
    refine ⟨G.comap e.symm, hG', ?_, fun v => ?_⟩
    · rw [diam_eq_two_iff _ (by simpa) hG']
      intro x y hxy
      have hxy' : e.symm x ≠ e.symm y := fun h => hxy (e.symm.injective h)
      rcases hdiam _ _ hxy' with hadj | ⟨z, h1, h2⟩
      · exact Or.inl hadj
      · exact Or.inr ⟨e z, by simpa [SimpleGraph.comap] using h1, by simpa [SimpleGraph.comap] using h2⟩
    · have := hdeg (e.symm v)
      rw [← card_neighborSet_eq_degree] at this ⊢
      calc Fintype.card ((G.comap e.symm).neighborSet v)
          = Fintype.card (G.neighborSet (e.symm v)) := Fintype.card_congr (iso.mapNeighborSet v)
        _ ≤ d := by convert this

theorem erdos_133_bridge : type_of% Erdos133.erdos_133 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  refine Erdos133Plby.erdos_133.2.2 ?_
  refine h.congr' ?_
  filter_upwards [eventually_ge_atTop 3] with n hn
  rw [f_eq n hn]

theorem erdos_133_isTheta_bridge : type_of% Erdos133.erdos_133.variants.isTheta := by
  have heq : (fun n : ℕ => (Erdos133Plby.erdos133Function n : ℝ)) =ᶠ[atTop]
      fun n => (Erdos133.f n : ℝ) := by
    filter_upwards [eventually_ge_atTop 3] with n hn
    rw [f_eq n hn]
  exact ⟨Erdos133Plby.erdos_133.2.1.1.congr' heq .rfl, Erdos133Plby.erdos_133.2.1.2.congr' .rfl heq⟩

end Bridge133
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«133»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/133.lean [hunk 1]
```diff
@@ -0,0 +1,103 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/133.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
